US06403586B1
Preparation of 2-Cyclopropylmethyl-6-(4-methoxyphenyl)-4-(2-pyridylmethyl)carbamoyl-2H-pyridazin-3-one
In xylene, 2-cyclopropylmethyl-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and 2-(aminomethyl)pyridine were reacted at 140° C. for 1 hour. Post-treatments were conducted as in Example 58-(3), whereby the title compound was obtained in a yield of 84.2%.

reactant | 2-cyclopropylmethyl-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)C(=O)OCC)C1=CC=C(C=C1)OC | C18H20N2O4
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Cyclopropylmethyl-6-(4-methoxyphenyl)-4-(2-pyridylmethyl)carbamoyl-2H-pyridazin-3-one | yield of 84.2% | C1(CC1)CN1N=C(C=C(C1=O)C(NCC1=NC=CC=C1)=O)C1=CC=C(C=C1)OC | C22H22N4O3
